US07923456B2
Step 3: 5-(2-Fluoro-4-iodophenylamino)-imidazo[1,5-a]pyridine-6-carboxylic acid
To a solution of 5-(2-fluoro-4-iodophenylamino)-imidazo[1,5-a]pyridine-6-carboxylic acid methyl ester (5.6 g, 13.6 mmol) in IMS (50 mL) was added aqueous sodium hydroxide (27.2 mL, 1M, 27.2 mmol) and the reaction mixture stirred at 65° C. for 2 hours. The reaction mixture was concentrated in vacuo to remove the IMS. The resultant solution was acidified to pH 5 by addition of aqueous hydrochloric acid (1M) causing a precipitate to form. The product was collected by filtration and dried under vacuum at 45° C. to yield the title compound as a beige solid (5.4 g, 100%). LCMS (Method B): RT=2.79 min, M+H+=398.

reactant | 5-(2-fluoro-4-iodophenylamino)-imidazo[1,5-a]pyridine-6-carboxylic acid methyl ester | 13.6 mmol, 5.6 g | COC(=O)C=1C=CC=2N(C1NC1=C(C=C(C=C1)I)F)C=NC2 | C15H11FIN3O2
reactant | sodium hydroxide | 27.2 mmol, 1M, 27.2 mL | [OH-].[Na+]
product | 5-(2-Fluoro-4-iodophenylamino)-imidazo[1,5-a]pyridine-6-carboxylic acid | 5.4 g, 100% | FC1=C(C=CC(=C1)I)NC1=C(C=CC=2N1C=NC2)C(=O)O | C14H9FIN3O2
